US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(6-chloropyrimidin-4-yloxy)benzamide
Using an analogous procedure to that described in Example 47, 4,6-dichloropyrimidine was reacted with N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide to give the title compound in 42% yield; NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 3.14 (t, 4H), 3.73 (t, 4H), 7.22 (d, 1H), 7.34 (m, 2H), 7.47 (m, 3H), 7.57 (m, 1H), 7.63 (t, H), 7.81 (d, 1H), 7.93 (d, 1H), 8.66 (s, 1H), 9.96 (s, 1H), 10.14 (s, 1H); Mass Spectrum: M+H+ 544.

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-hydroxybenzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)O)=O | C25H25N3O4
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(6-chloropyrimidin-4-yloxy)benzamide | 42% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)OC1=NC=NC(=C1)Cl)=O | C29H26ClN5O4
